Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Keflex
 
Attending: ___.
 
Chief Complaint:
Dyspnea on exertion
 
Major Surgical or Invasive Procedure:
Aortic valve replacement ___ Magna Ease), Coronary artery 
disease times one (LIMA to ___
 
History of Present Illness:
Mrs. ___ is a ___ year old woman with a history of aortic 
stenosis first noted in ___. She has seen been 
followed with serial echocardiograms. Recently, she has noted 
dyspnea on exertion and fatigue. Her most recent echocardiogram 
revealed severe aortic stenosis with mild left ventricular 
hypertrophy, and severe aortic stenosis with peak and mean 
gradients of 77 mmHg and 44 mmHg, respectively. The aortic valve 
area was 0.8 cm2. Given the progression of her aortic stenosis, 
she was referred to Dr. ___ surgical evaluation. She 
noted fagitue and dyspnea while playing tennis or walking. She 
denied syncope, dizziness, lightheadedness, shortness of breath, 
chest pain, palpitations, orthopnea, paroxysmal nocturnal 
dyspnea, or lower extremity edema.
 
Past Medical History:
Anemia
Aortic Stenosis
Basal cell carcinoma, forehead
Diverticulosis
Gastroesophageal Reflux Disease
Hemorrhoids
Obesity
Osteoporosis
Sleep Apnea
C-Section
Cholecystectomy
 
Social History:
___
Family History:
Family History: - Premature coronary artery disease
Father - history of stroke in his ___.
Mother - history of aortic valve replacement and CABG, died at 
age ___.
Sister - history of heart murmur.
 
Physical Exam:
Physical Exam

Vital Signs sheet entries for ___:
BP: 135/79. Heart Rate: 87. Resp. Rate: 16. O2 Saturation%: 99.
Height: 65"  Weight: 270 lbs

General: Pleasant woman, WDWN, NAD
Skin: Right breast fold warm, tender with surrounding area of 
erythema. Skin otherwise dry and intact.
HEENT: NCAT, PERRLA, EOMI, OP benign
Neck: Supple, full ROM, no JVD
Chest: Lungs clear bilaterally
Heart: Regular rate and rhythm, III/VI SEM heard best at LUSB 
Abdomen: Protruberant, normal BS, non-tender, no masses 
Extremities: Warm, well-perfused, trace edema 
Varicosities: None
Neuro: Grossly intact
Pulses:
Femoral      Right: 1+  Left: 1+
DP           Right: 2+  Left: 2+
___           Right: 2+  Left: 2+
Radial       Right: 2+  Left: 2+

Carotid Bruit: bruit vs. transmitted murmur

Discharge Physical Exam:
Vital signs: 98.7 98.4 BP 99/65 HR 83 resp 20 RA 95%
Wgt: 129.8kg

Neuro: A&O x 3 non focal
lungs: decreased bases
CV: S1 s1 soft murmur, no JVD
abd: soft +BS, +BM
Ext: trace lower ext edema
Wounds: CDI
 
Pertinent Results:
Echo ___: 
PRE BYPASS The left atrium is dilated. No spontaneous echo 
contrast or thrombus is seen in the body of the left atrium/left 
atrial appendage or the body of the right atrium/right atrial 
appendage. No atrial septal defect is seen by 2D or color 
Doppler. There is mild symmetric left ventricular hypertrophy. 
The left ventricular cavity size is normal. Regional left 
ventricular wall motion is normal. Overall left ventricular 
systolic function is normal (LVEF>55%). The right ventricle 
displays normal free wall contractility. There are simple 
atheroma in the ascending aorta. There are simple atheroma in 
the aortic arch. The descending thoracic aorta is mildly 
dilated. There are simple atheroma in the descending thoracic 
aorta. There are three aortic valve leaflets. The aortic valve 
leaflets are severely thickened/deformed. There is severe aortic 
valve stenosis (valve area 0.7cm2). Mild (1+) aortic 
regurgitation is seen. The aortic regurgitation jet is 
eccentric, directed toward the anterior mitral leaflet. [Due to 
acoustic shadowing and eccentricity, the severity of aortic 
regurgitation may be UNDERestimated.] The mitral valve leaflets 
are moderately thickened. There is mild valvular mitral stenosis 
(MVA 1.5-2.0 cm2). Due to co-existing aortic regurgitation, the 
pressure half-time estimate of mitral valve area may be an 
OVERestimation of true mitral valve area. Mild (1+) mitral 
regurgitation is seen. The left ventricular inflow pattern 
suggests impaired relaxation. There is no pericardial effusion. 
Dr. ___ was notified in person of the results in the 
operating room at the time of the procedure.
Postbypass:  There is a bioprosthesis in the native aortic 
position, stable and functioning well. Residual mean gradient is 
12mm of Hg. No significant regurgitant jets Intact thoracic 
aorta,. No other new findings.
.

___ 05:45AM BLOOD WBC-13.6* RBC-3.00* Hgb-8.2* Hct-26.1* 
MCV-87 MCH-27.3 MCHC-31.4* RDW-14.4 RDWSD-45.6 Plt ___
___ 04:32AM BLOOD WBC-11.9* RBC-2.94* Hgb-8.1* Hct-25.5* 
MCV-87 MCH-27.6 MCHC-31.8* RDW-14.6 RDWSD-46.8* Plt ___
___ 05:50AM BLOOD WBC-13.1* RBC-3.04* Hgb-8.3* Hct-26.5* 
MCV-87 MCH-27.3 MCHC-31.3* RDW-14.8 RDWSD-47.7* Plt ___
___ 06:00PM BLOOD ___ PTT-34.8 ___
___ 05:45AM BLOOD UreaN-26* Creat-0.7 Na-137 K-4.2 Cl-99
___ 04:32AM BLOOD Glucose-113* UreaN-27* Creat-0.8 Na-136 
K-4.2 Cl-100 HCO3-26 AnGap-14

___ CXR
Postoperative widening of the upper mediastinum has improved.  
Left lower lobe 
is still severely atelectatic and there is accompanying left 
pleural effusion, 
probably moderate in size.  There is no pneumothorax.  I do not 
believe there 
is still a left thoracostomy tube.  Right lung is grossly clear. 


 
Brief Hospital Course:
Ms. ___ was a same day admit and on ___ she was brought to 
the operating room where they underwent an aortic valve 
replacement and coronary artery bypass graft x 1. Please see 
operative note for surgical details. Following surgery she was 
transferred to the CVICU for invasive monitoring in stable 
condition. Early on post-operative day one she was weaned from 
sedation, awoke neurologically intact and extubated. 
Beta-blockers and diuretics were initiated and she was diuresed 
towards her pre-op weight. Later this day she was transferred to 
the step-down floor for further care. Chest tubes and epicardial 
pacing wires were removed per protocol. Follow-up CXR shows 
small stable left apical pneumothorax. On the stepdown floor the 
patient worked with nursing and physical therapy service for 
assistance with strength and mobility. By the time of discharge 
on POD 4 the patient was ambulating the wound was healing and 
pain was controlled with oral analgesics.  The patient was 
discharged to home with home ___ in good condition with 
appropriate follow up instructions.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Carvedilol 25 mg PO BID 
3. Docusate Sodium 200 mg PO DAILY 
4. Doxazosin 4 mg PO HS 
5. Furosemide 20 mg PO DAILY 
6. glimepiride 2 mg oral DAILY 
7. Isosorbide Mononitrate (Extended Release) 60 mg PO BID 
8. Lisinopril 10 mg PO DAILY 
9. Simvastatin 40 mg PO QPM 
10. DiphenhydrAMINE 50 mg PO QHS 
11. MetFORMIN (Glucophage) 1000 mg PO BID 
 
Discharge Medications:
1. Walker
front wheeled rolling walker for mobility
dx: AS, CAD, s/p AVR, CABG
duration: lifetime
prognosis: good
2. Aspirin 81 mg PO DAILY 
3. Docusate Sodium 200 mg PO DAILY 
4. Acetaminophen 650 mg PO/PR Q4H:PRN pain or temperature >38.0 
5. Atorvastatin 20 mg PO QPM 
RX *atorvastatin 20 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*1
6. Metoprolol Tartrate 12.5 mg PO BID 
RX *metoprolol tartrate 25 mg 0.5 (One half) tablet(s) by mouth 
twice a day Disp #*60 Tablet Refills:*1
7. Milk of Magnesia 30 mL PO DAILY 
8. Omeprazole 20 mg PO DAILY 
9. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN Pain: 
moderate/severe 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0
10. Sarna Lotion 1 Appl TP BID:PRN itching 
RX *camphor-menthol [Sarna Anti-Itch] 0.5 %-0.5 % apply to 
affected area twice a day Refills:*0
11. calcium carbonate-vitamin D3 500 mg(1,250mg) -400 unit oral 
DAILY 
12. Multivitamins 1 TAB PO DAILY 
13. Furosemide 40 mg PO BID Duration: 10 Days 
RX *furosemide 40 mg 1 tablet(s) by mouth twice a day Disp #*20 
Tablet Refills:*0
14. Potassium Chloride 20 mEq PO BID Duration: 10 Days 
Hold for K > 
RX *potassium chloride 20 mEq 1 tablet(s) by mouth twice a day 
Disp #*20 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Aortic stenosis, coronary artery disease s/p AVR, CABG x 1
Past medical history:
Anemia
Basal cell carcinoma, forehead
Diverticulosis
Gastroesophageal Reflux Disease
Hemorrhoids
Obesity
Osteoporosis
Sleep Apnea

 
Discharge Condition:
 Monitor vitals signs including weight and temperature
       Concerns - fever of 100.5 degrees Fahrenheit or higher
                - weight increase more than two pounds in one 
day
                  or five pounds in a week
  Monitor wound healing, teach wound care
         Care   - SHOWER DAILY - including first washing
                  incisions gently with mild soap
                - NO lotions, cream, powder, or ointments to
                  incisions
       Concerns - warmth, redness, swelling or increased
                  tenderness/pain
                - ANY fluid or drainage coming out of
                  incisions
   Medication, diet and exercise teaching and compliance
   Follow-up appointment assistance and compliance
 **Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
 Please NO lotions, cream, powder, or ointments to incisions
 Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
 No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
 No lifting more than 10 pounds for 10 weeks
 Please call with any questions or concerns ___
 **Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___